US05703158
190.8 g of Rucoflex XS-5570-55, 102.9 g of Rucoflex S-1011-55 and 6.7 g of DMPA are reacted with 73.2 g of TMXDI in the presence of the T-12 at 85° C. for 4 hours to prepare a prepolymer. 3.4 g of sodium hydroxide and 1.83 g of EA are dissolved in 660 g of water, and then the prepolymer is dispersed by adding the aqueous solution containing NaOH and EA. After 5 minutes, a solution of 4.08 g of DETA in 51 g of water is added and stirring is continued for 15 minutes to form the aqueous poly(urethane/urea) dispersion. A finely divided dispersion having a solids content of 34.9% and a pH of 7.95 is obtained.

reactant | DMPA | 6.7 g | CC(C)NP(=S)(OC)OC1=C(C=C(C=C1)Cl)Cl | C10H14Cl2NO2PS
reactant | TMXDI | 73.2 g | CC(C)(C1=CC(=CC=C1)C(C)(C)N=C=O)N=C=O | C14H16N2O2
reactant | sodium hydroxide | 3.4 g | [OH-].[Na+]
reactant | DETA | 4.08 g | CCN(CC)C(=O)C1=CC(=CC=C1)C | C12H17NO
solvent | water | 660 g | O | H2O
solvent | water | 51 g | O | H2O
solvent | EA | CC(OCC)=O | C4H8O2
solvent | EA | 1.83 g | CC(OCC)=O | C4H8O2
product | urethane urea | NC(=O)OCC.NC(=O)N | InChI=1S/C3H7NO2.CH4N2O/c1-2-6-3(4)5;2-1(3)4/h2H2,1H3,(H2,4,5);(H4,2,3,4)
